US07456315B2
3,5-dichloro-4-fluorobenzoic acid was refluxed with >1 equivalent of thionyl chloride and one drop of DMF neat or as a solution in CHCl3. The solvent and volatile by-products were removed in vacuo to provide 3,5-dichloro-4-fluorbenzoyl chloride.

reactant | 3,5-dichloro-4-fluorobenzoic acid | ClC=1C=C(C(=O)O)C=C(C1F)Cl | C7H3Cl2FO2
reactant | thionyl chloride | >1 equivalent | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 3,5-dichloro-4-fluorbenzoyl chloride | ClC=1C=C(C(=O)Cl)C=C(C1F)Cl | C7H2Cl3FO
